US08877774B2
Step 5. (3-((8-(1,3-Dioxolan-2-yl)octyl)oxy)-5-bromophenyl)(phenyl)methanol
The title compound was prepared as described in Example 10 Step 2 with 3-((8-(1,3-dioxolan-2-yl)octyl)oxy)-5-bromobenzaldehyde and phenylmagnesium bromide replacing 3-(8-(1,3-dioxolan-2-yl)octyloxy)benzaldehyde and 2-thienylmagnesium bromide, respectively.

reactant | 3-((8-(1,3-dioxolan-2-yl)octyl)oxy)-5-bromobenzaldehyde | O1C(OCC1)CCCCCCCCOC=1C=C(C=O)C=C(C1)Br | C18H25BrO4
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 2-thienylmagnesium bromide | S1C(=CC=C1)[Mg]Br
product | (3-((8-(1,3-Dioxolan-2-yl)octyl)oxy)-5-bromophenyl)(phenyl)methanol | O1C(OCC1)CCCCCCCCOC=1C=C(C=C(C1)Br)C(O)C1=CC=CC=C1 | C24H31BrO4
